*.BIPOLAR
*.RESI = 2000
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM
*.EXPAND_ON_M_FACTOR

.SUBCKT BUFFER A Z inh_gnd inh_vdd
*.PININFO A:I Z:O inh_gnd:B inh_vdd:B
MM0   netx A inh_vdd inh_vdd P250 W=1e-6 L=1e-6 M=1 ngcon=1 nfing=1 srcefirst=1
MM1   Z netx inh_vdd inh_vdd P250 W=1e-6 L=1e-6 M=1 ngcon=1 nfing=1 srcefirst=1
MMN1  netx A inh_gnd inh_gnd N250 W=1u   L=1u   M=1 ngcon=1 nfing=1 srcefirst=1
MMN10 Z netx inh_gnd inh_gnd N250 W=1u   L=1u   M=1 ngcon=1 nfing=1 srcefirst=1
.ENDS

.SUBCKT MACRO_CELL IN_REG\<0\> IN_REG\<1\> OUT_REG\<0\> OUT_REG\<1\> VDD GND
*.PININFO IN_REG\<0\>:I IN_REG\<1\>:I
*.PININFO OUT_REG\<0\>:O OUT_REG\<1\>:O
*.PININFO VDD:B GND:B
BUFFER IN_REG\<0\> OUT_REG\<0\> VDD GND / buffer0
BUFFER IN_REG\<1\> OUT_REG\<1\> VDD GND / buffer1
.ENDS
